US07683060B2
Step 3. 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoic acid
A mixture of methyl 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoate (80.0 mg, 0.19 mmol) and lithium hydroxide monohydrate (16.0 mg, 0.37 mmol) in methanol (3.0 mL) and water (1.0 mL) was stirred at RT for 4 h. The mixture was adjusted with 1N HCl to pH=5. The volatiles were removed under reduced pressure, and dried in-vacuo to give a crude product which was directly used in the next step without further purification. Analytical LCMS: (M+H)+=415.0.

reactant | methyl 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoate | 0.19 mmol, 80.0 mg | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)OC)C=C1 | C22H16N6O2S
reactant | lithium hydroxide monohydrate | 0.37 mmol, 16.0 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 3.0 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoic acid | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)O)C=C1 | C21H14N6O2S
